US09212182B2
Perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (15.00 g, 26.0 mmol), (3-chloro-5-fluorophenyl)boronic acid (4.99 g, 28.6 mmol), potassium carbonate (10.79 g, 78 mmol), and Pd(PPh3)4 (3.01 g, 2.60 mmol) were combined in 1,4-dioxane (98 ml) and water (32.5 ml). The reaction was heated to 90° C. for 2.5 h. After cooling to room temperature, the reaction was diluted with DCM and washed with water. The organics were dried via phase separator and concentrated in vacuo. The crude oil was dry loaded onto silica gel and purified via MPLC, eluting with 0-100% ethyl acetate (with a 10% DCM additive) to yield perfluorophenyl 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate (6.20 g, 9.91 mmol, 38.1% yield) as a beige solid. m/z (ESI) 626.0 (M+H)+.

reactant | Perfluorophenyl 1-(5-bromo-2-methoxyphenyl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 26.0 mmol, 15.00 g | BrC=1C=CC(=C(C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O)OC | C22H11BrF5NO5S
reactant | (3-chloro-5-fluorophenyl)boronic acid | 28.6 mmol, 4.99 g | ClC=1C=C(C=C(C1)F)B(O)O | C6H5BClFO2
reactant | potassium carbonate | 78 mmol, 10.79 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 98 ml | O1CCOCC1 | C4H8O2
solvent | water | 32.5 ml | O | H2O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 2.60 mmol, 3.01 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | perfluorophenyl 1-(3′-chloro-5′-fluoro-4-methoxy-[1,1′-biphenyl]-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonate | 9.91 mmol, 6.20 g, 38.1% yield | ClC=1C=C(C=C(C1)F)C1=CC(=C(C=C1)OC)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C28H14ClF6NO5S
